US04977151
1.8 g of sodium hydroxide dissolved in 10 ml of ethanol and 10 ml of water were added to 4.0 g of 2-(4-methylpiperazin-1-yl)-1-(4-acetylamino-phenyl)-ethanone which was obtained in the same manner as in Example 1, and stirred at 85° C for 2 hours in a nitrogen atmosphere. Then, ethanol was distilled off, the deposited oily product was extracted with chloroform, washed with water, dried over anhydrous sodium sulfate and further concentrated to solid to obtain 2.7 g of 2-(4-methylpiperazin-1-yl)-1-(4-amino-phenyl)-ethanone.

reactant | sodium hydroxide | 1.8 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 2-(4-methylpiperazin-1-yl)-1-(4-acetylamino-phenyl)-ethanone | 4.0 g | CN1CCN(CC1)CC(=O)C1=CC=C(C=C1)NC(C)=O | C15H21N3O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4-methylpiperazin-1-yl)-1-(4-amino-phenyl)-ethanone | 2.7 g | CN1CCN(CC1)CC(=O)C1=CC=C(C=C1)N | C13H19N3O
